US06649641B2
Step 4: Preparation of 3-(3,5-bis(Trifluoromethyl)phenyl)-1-(4-tert-butylcyclohexyl)-1-{4-[1-hydroxy-2-(2H-tetrazol-5-yl)ethyl]benzyl}urea
Resin bound 1-{4-[(4-tert-butylcyclohexylamino)methyl]phenyl}-2-(2H-tetrazol-5-yl)ethanol (50 mg) was suspended in DCP (500 μl) and N,O-bis(trimethylsilyl)acetamide (100 μl) was added. The mixture was shaken at room temperature for 1 hour, then a solution of 3,5-bis(trifluoromethyl)phenylisocyanate (48 mg, 0.19 mmol) in DCP (500 μl) was added. The resin mixture was shaken overnight at room temperature, then drained and washed with DCM (3×2 ml); DMF (3×2 ml); water (2×2 ml, each 20 min washes), THF (3×2 ml) and finally DCM (6×2 ml). The resin was then treated with 50% TFA in DCM for 30 min. Solvent was collected by filtration, and taken to dryness by evaporation in vacuo.

reactant | 1-{4-[(4-tert-butylcyclohexylamino)methyl]phenyl}-2-(2H-tetrazol-5-yl)ethanol | 50 mg | C(C)(C)(C)C1CCC(CC1)NCC1=CC=C(C=C1)C(CC=1N=NNN1)O | C20H31N5O
reactant | 3,5-bis(trifluoromethyl)phenylisocyanate | 0.19 mmol, 48 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)N=C=O)(F)F | C9H3F6NO
solvent | N,O-bis(trimethylsilyl)acetamide | 100 μl | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
product | 3-(3,5-bis(Trifluoromethyl)phenyl)-1-(4-tert-butylcyclohexyl)-1-{4-[1-hydroxy-2-(2H-tetrazol-5-yl)ethyl]benzyl}urea | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(N(CC1=CC=C(C=C1)C(CC=1N=NNN1)O)C1CCC(CC1)C(C)(C)C)=O)(F)F | C29H34F6N6O2
